US07632835B2
7t 3-Ethyl-pentanoic Acid(2,6-dimethyl-4-morpholin-4-yl-phenyl)-amide
3-Ethylpentanoic acid (0.79 g) and thionyl chloride (0.44 mL) were mixed in acetonitrile (10 mL) and heated to 110° C. for 5 minutes in a sealed microwave process vial. 2,6-Dimethyl-4-morpholin-4-yl-phenylamine (1.25 g) dissolved in acetonitrile (10 mL) was added to the reaction mixture and heated to 150° C. for 15 minutes in a sealed microwave process vial. Saturated aqueous sodium bicarbonate/brine/water (1:1:1, 50 mL) was added to the crude mixture and it was extracted with ethyl acetate (3×50 mL). The combined organic phases were dried over magnesium sulfate and concentrated in vacuo. The crude product was recrystallized from hot toluene, and the product was collected by filtration, washed with cold toluene and dried in vacuo to furnish 0.59 g (30% yield) of the title compound as an off-white solid. LC-MS (m/z) 319 (MH+); tR=2.04, (UV, ELSD) 98%, 99%. 1H NMR (500 MHz, DMSO-d6): 0.87 (t, 6H), 1.35 (qui, 4H), 1.76 (m, 1H), 2.07 (s, 6H), 2.20 (d, 2H), 3.05 (t, 4H), 3.71 (t, 4H), 6.62 (s, 2H), 8.94 (s, 1H).

reactant | 3-Ethylpentanoic acid | 0.79 g | C(C)C(CC(=O)O)CC | C7H14O2
reactant | thionyl chloride | 0.44 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-Dimethyl-4-morpholin-4-yl-phenylamine | 1.25 g | CC1=C(C(=CC(=C1)N1CCOCC1)C)N | C12H18N2O
reactant | sodium bicarbonate brine water | 50 mL | C([O-])(O)=O.[Na+].[Cl-].[Na+].O.O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-Ethyl-pentanoic Acid(2,6-dimethyl-4-morpholin-4-yl-phenyl)-amide | 0.59 g, 30% yield | CC1=C(C(=CC(=C1)N1CCOCC1)C)NC(CC(CC)CC)=O | C19H30N2O2
